US09359375B2
(R)-4-(1-amino-3-hydroxy-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide
To a suspension of (R)-4-(1-amino-3-(benzyloxy)-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide (4 mg, 0.009 mmol) in CH2Cl2 (1 mL), BBr3 (0.050 mL, 0.53 mmol) was added. After being stirred and swirled for 1 h, the mixture was purified by HPLC to give the titled compound (1 mg). MS 336.3 (M+H); UV 202.9, 294.6 nm

reactant | (R)-4-(1-amino-3-(benzyloxy)-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide | 0.009 mmol, 4 mg | NC([C@@H](COCC1=CC=CC=C1)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)=O | C21H23N5O3S
reactant | BBr3 | 0.53 mmol, 0.050 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-4-(1-amino-3-hydroxy-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide | 1 mg | NC([C@@H](CO)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)=O | C14H17N5O3S
